US07211538B2
b) Preparation of cyclopentadienyl ((2-trimethylsiloxy-ethyl)-cyclopentadienyl) zirconium dichloride
To a suspension of 3.52 g (10 mmol) of an adduct of cyclopentadienyl zirconium trichloride with dimethoxyethane in toluene, a suspension of 2.2 g (10 mmol) of potassium (2-trimethylsiloxy-ethyl)-cyclopentadienide in toluene is added. The addition is carried out at −78° C. An orange-brown suspension is immediately formed; it is maintained under stirring for 12 hours; then it is left settling and it is filtered. The obtained orange solution is concentrated up to 5 ml and hexane is added, so that a brown solid is obtained. (1.1 g, 2.7 mmol. Yield: 27%). 1H-NMR: 6.00 (t, 2H), 5.87 (s, 5H), 5.67 (t, 2H), 3.66 (t, 2H), 2.92 (t, 2H), 0.11 (s, 9H). Mass spectrum. M+-65: (343): 33%.

reactant | cyclopentadienyl zirconium trichloride | [Cl-].[Cl-].[Cl-].C1(C=CC=C1)[Zr+3]
reactant | dimethoxyethane | C(OC)COC | C4H10O2
reactant | potassium (2-trimethylsiloxy-ethyl)-cyclopentadienide | 10 mmol, 2.2 g | C[Si](OCC[C-]1C=CC=C1)(C)C.[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | cyclopentadienyl ((2-trimethylsiloxy-ethyl)-cyclopentadienyl) zirconium dichloride | Yield: 27% | [Cl-].[Cl-].C1(C=CC=C1)[Zr+2]C1(C=CC=C1)CCO[Si](C)(C)C | InChI=1S/C10H17OSi.C5H5.2ClH.Zr/c1-12(2,3)11-9-8-10-6-4-5-7-10;1-2-4-5-3-1;;;/h4-7H,8-9H2,1-3H3;1-5H;2*1H;/q;;;;+2/p-2
